US07820654B2
Step (i). Synthesis of 1-(3-chloro-4-methoxy-phenyl)-3-pyridin-3-yl-propane-1,3-dione
To a solution of 3-chloro-4-methoxy acetophenone (3.0 g, 16.30 mmol) in DMF (15 mL) was added 60% NaH [0.717 g (0.430 g, 17.93 mmol)] at 0° C. under a nitrogen atmosphere. The mixture was stirred for 30 min and a solution of nicotinic acid ethyl ester (2.95 g, 19.56 mmol) in DMF (10 mL) was added slowly to it. The mixture was stirred at temperature in the range of 20-40° C. for 12 hour. It was then poured into ice-cold water (100 mL) and stirred for 15 minutes. The solid was filtered and dried to give the desired compound.

reactant | 3-chloro-4-methoxy acetophenone | 16.30 mmol, 3.0 g | CC(=O)C1=CC(=C(C=C1)OC)Cl | C9H9ClO2
reactant | NaH | 17.93 mmol, 0.717 g | [H-].[Na+]
reactant | nicotinic acid ethyl ester | 19.56 mmol, 2.95 g | C(C)OC(C1=CN=CC=C1)=O | C8H9NO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-chloro-4-methoxy-phenyl)-3-pyridin-3-yl-propane-1,3-dione | ClC=1C=C(C=CC1OC)C(CC(=O)C=1C=NC=CC1)=O | C15H12ClNO3
